US08487117B2
Preparation of 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylic acid
To a solution of methyl 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylate (0.39 g, 1.3 mmol) in methanol (5.0 ml) was added 5N NaOH (5.0 ml) and the mixture was stirred at 80° C. for 3.0 h. The reaction mixture was cooled to room temperature and added formic acid (3.0 ml). The mixture was concentrated on a rotary evaporator. To the residue was added water and triturated. The solid was filtered and dried to give the title compound (0.37 g, 93%) as a brown solid.

reactant | methyl 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylate | 1.3 mmol, 0.39 g | ClC1=CC(=C(C=C1)C1=C(C(=CN1)C(=O)OC)C)C(F)(F)F | C14H11ClF3NO2
reactant | NaOH | 5N, 5.0 ml | [OH-].[Na+]
reactant | formic acid | 3.0 ml | C(=O)O | CH2O2
solvent | methanol | 5.0 ml | CO | CH4O
product | 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylic acid | 0.37 g, 93% | ClC1=CC(=C(C=C1)C1=C(C(=CN1)C(=O)O)C)C(F)(F)F | C13H9ClF3NO2
